US09399635B2
(4) Synthesis of 3-[(1E)-2-(1H-indol-5-yl)ethenyl]-5-[(1E)-2-[4-(2-pyridylmethoxy)phenyl]ethenyl]-1H-pyrazole
In 0.34 mL of acetic acid was dissolved 15 mg (35 μmol) of (1E,6E)-1-(1H-indol-5-yl)-7-[4-(2-pyridylmethoxy)phenyl]hepta-1,6-diene-3,5-dione. To this solution was added 34 μL (0.70 mmol) of hydrazine monohydrate at room temperature and the mixture was stirred at 60° C. for 3 hours. The reaction mixture was neutralized with a saturated sodium bicarbonate aqueous solution and extraction with ethyl acetate was performed. The resulting organic layer was washed with saturated brine and dried over magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate or methylene chloride/methanol). The resulting solid was washed with an organic solvent to give 3.5 mg (24% yield) of the title compound as a pale yellowish white powder with the following properties.

reactant | (1E,6E)-1-(1H-indol-5-yl)-7-[4-(2-pyridylmethoxy)phenyl]hepta-1,6-diene-3,5-dione | 35 μmol, 15 mg | N1C=CC2=CC(=CC=C12)\C=C\C(CC(\C=C\C1=CC=C(C=C1)OCC1=NC=CC=C1)=O)=O | C27H22N2O3
reactant | hydrazine monohydrate | 0.70 mmol, 34 μL | O.NN
solvent | acetic acid | 0.34 mL | C(C)(=O)O | C2H4O2
product | 3-[(1E)-2-(1H-indol-5-yl)ethenyl]-5-[(1E)-2-[4-(2-pyridylmethoxy)phenyl]ethenyl]-1H-pyrazole | 3.5 mg, 24% yield | N1C=CC2=CC(=CC=C12)/C=C/C1=NNC(=C1)\C=C\C1=CC=C(C=C1)OCC1=NC=CC=C1 | C27H22N4O
